US04371536
1 g of 4-methyl-β-carbolin-3-carboxylic acid ethyl ester is dissolved in 120 ml of chloroform saturated at 0° C. with chlorine gas and stirred for 3 hours while cooling with ice. The excess chlorine and part of the chloroform are then distilled with suction in vacuo, the crystalline precipitate is filtered off, suspended in 50 ml of ethyl acetate, and aqueous ammonia (5%, 10 ml) is added thereto. After 10 minutes, the crystalline product had dissolved. After separating off the aqueous phase and washing the organic phase with water, the residue is dried with sodium sulphate, filtered, and the solvent is distilled off in vacuo. The residue is crystallized from ethyl acetate. 0.73 g of 6-chloro-4-methyl-β-carbolin-3-carboxylic acid ethyl ester of melting point 225°-228° C. is obtained.

reactant | 4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1C | C15H14N2O2
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chlorine | ClCl | Cl2
product | 6-chloro-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 0.73 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)Cl | C15H13ClN2O2
